US07429665B2
4-Chloro-2-[4-(1-methyl4-pyridin-4-yl-1H-pyrazol-3-yl)-phenoxymethyl]-quinoline
Following the procedure for the preparation of 2-{4-[4-Pyridin-4-yl-1-(2,2,2-trifluoro-ethyl)-1H-pyrazol-3-yl]-phenoxymethyl}-quinoxaline but substituting 4-(1-Methyl-4-pyridin4-yl-1H-pyrazol-3-yl)-phenol and (4-Chloro-quinolin-2-yl)-methanol provided the title compound. 1H NMR (400 MHz, CDCl3) δ 8.43 (d, J=4.6 Hz, 2 H), 8.18 (d, J=8.7 Hz, 1H), 8.04 (d, J=7.9 Hz, 1H), 7.73 (m, 2H), 7.60 (t, J=7.1 Hz, 1 H), 7.52 (s, 1 H), 7.37 (d, J=9.1, Hz, 2 H), 7.12 (d, J=6.2 Hz, 2H), 6.98 (d, J=8.7 Hz, 2 H), 5.30 (s, 2H), 3.90 (s, 3 H); MS: (M+H m/z=427.1).

reactant | 2-{4-[4-Pyridin-4-yl-1-(2,2,2-trifluoro-ethyl)-1H-pyrazol-3-yl]-phenoxymethyl}-quinoxaline | N1=CC=C(C=C1)C=1C(=NN(C1)CC(F)(F)F)C1=CC=C(OCC2=NC3=CC=CC=C3N=C2)C=C1 | C25H18F3N5O
reactant | 4-(1-Methyl-4-pyridin4-yl-1H-pyrazol-3-yl)-phenol | CN1N=C(C(=C1)C1=CC=NC=C1)C1=CC=C(C=C1)O | C15H13N3O
reactant | (4-Chloro-quinolin-2-yl)-methanol | ClC1=CC(=NC2=CC=CC=C12)CO | C10H8ClNO
product | 4-Chloro-2-[4-(1-methyl4-pyridin-4-yl-1H-pyrazol-3-yl)-phenoxymethyl]-quinoline | ClC1=CC(=NC2=CC=CC=C12)COC1=CC=C(C=C1)C1=NN(C=C1C1=CC=NC=C1)C | C25H19ClN4O
